US07893058B2
Step 1: 4-(5-Bromo-imidazo[1,2-a]pyrazin-8-ylamino)-N-(2-diethylamino-ethyl)-benzamide
In the same way as described in for Compound 90, step 3, using 4-(5-bromo-imidazo[1,2-a]pyrazin-8-ylamino)-benzoic acid (0.593 g 1.78 mmol), N,N diethylethane-1,2-diamine (0.30 mL, 2.14 mmol), DIPEA (0.48 mL, 2.68 mmol), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.68 g, 1.78 mmol) in DMF. The title compound (0.53 g, 69%) is obtained after purification by silica gel column chromatography eluting with DCM followed by 95:5 DCM:NH3 (7M in MeOH). LCMS: Rt 2.21 min (96%).

reactant | 4-(5-bromo-imidazo[1,2-a]pyrazin-8-ylamino)-benzoic acid | 1.78 mmol, 0.593 g | BrC1=CN=C(C=2N1C=CN2)NC2=CC=C(C(=O)O)C=C2 | C13H9BrN4O2
reactant | N,N diethylethane-1,2-diamine | 2.14 mmol, 0.30 mL | C(C)N(CCN)CC | C6H16N2
reactant | DIPEA | 2.68 mmol, 0.48 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.78 mmol, 0.68 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(5-Bromo-imidazo[1,2-a]pyrazin-8-ylamino)-N-(2-diethylamino-ethyl)-benzamide | 0.53 g, 69% | BrC1=CN=C(C=2N1C=CN2)NC2=CC=C(C(=O)NCCN(CC)CC)C=C2 | C19H23BrN6O
